US06350735B1
N-Isopropylcyclopentanamine
Sodium triacetoxyborohydride (33.76 g, 0.16 mol) was added to a solution of cyclopentylamine (15 ml, 0.15 mol) in acetone (500 ml). The reaction mixture was stirred at room temperature for 24 hr then the solvent was removed and the reaction mixture was partitioned between ethyl acetate (400 ml) and 2M aqueous sodium hydroxide (150 ml). The organic layer was separated, dried (anhydrous magnesium sulphate) and evaporated under reduced pressure to give the title compound (12 g) as a liquid.

reactant | Sodium triacetoxyborohydride | 0.16 mol, 33.76 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | cyclopentylamine | 0.15 mol, 15 ml | C1(CCCC1)N | C5H11N
reactant | acetone | 500 ml | CC(=O)C | C3H6O
product | N-Isopropylcyclopentanamine | 12 g | C(C)(C)NC1CCCC1 | C8H17N
